US04360530
3.3 g of 2,2-dimethyl-3-(o-tolyl)-2H-azirine and 2.5 g of p-(dimethylamino)benzaldehyde were exposed to light for 2 hours in 290 ml of 1,4-dioxane (with the light source described in Example 2). After removing the solvent in a water-jet vacuum, the residue was chromatographed on aluminum oxide (neutral, activity 1), the elution was carried out with n-heptane/ether (9:1). Crystallization from ethanol/water gave 5-[p-(dimethylamino)phenyl]-2,2-dimethyl-4-(o-tolyl)-3-oxazoline which melted at 89°-90° C. after drying for 16 hours at 30° C. and 13 Torr.

reactant | 2,2-dimethyl-3-(o-tolyl)-2H-azirine | 3.3 g | CC1(N=C1C1=C(C=CC=C1)C)C | C11H13N
reactant | p-(dimethylamino)benzaldehyde | 2.5 g | CN(C1=CC=C(C=O)C=C1)C | C9H11NO
solvent | 1,4-dioxane | 290 ml | O1CCOCC1 | C4H8O2
product | 5-[p-(dimethylamino)phenyl]-2,2-dimethyl-4-(o-tolyl)-3-oxazoline | CN(C1=CC=C(C=C1)C1C(=NC(O1)(C)C)C1=C(C=CC=C1)C)C | C20H24N2O
